US04599344
Diethyl 2-(4-chlorophenyl)ethylphosphonate
Combine 24.9 g (0.15 mole) of triethyl phosphite and 32.9 g of 2-(4-chlorophenyl)ethyl bromide. Heat the mixture at reflux under a nitrogen atmosphere for 5-6 hours. Distill the reaction mixture at reduced pressure (0.2 mm Hg) and collect the fraction distilling at 110°-148° C. to obtain the title compound.

reactant | triethyl phosphite | 0.15 mole, 24.9 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | 2-(4-chlorophenyl)ethyl bromide | 32.9 g | ClC1=CC=C(C=C1)CCBr | C8H8BrCl
product | Diethyl 2-(4-chlorophenyl)ethylphosphonate | ClC1=CC=C(C=C1)CCP(OCC)(OCC)=O | C12H18ClO3P
